US04933355
5-[2-(o-toluidino)thiazol-4-ylmethylene]-rhodanine-3-acetic acid
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.12 g of 2-(o-toluidino)thiazole-4-carbaldehyde, 0.87 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 15 ml of ethanol. The resulting product was an orange powder having the following physical properties.

reactant | 2-(o-toluidino)thiazole-4-carbaldehyde | 1.12 g | C=1(C(=CC=CC1)NC=1SC=C(N1)C=O)C | C11H10N2OS
reactant | rhodanine-3-acetic acid | 0.87 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-[2-(o-toluidino)thiazol-4-ylmethylene]-rhodanine-3-acetic acid | C=1(C(=CC=CC1)NC=1SC=C(N1)C=C1C(N(C(S1)=S)CC(=O)O)=O)C | C16H13N3O3S3
